US06642249B2
A suspension of 4-(3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid (0.050 g, 0.16 mmol) in DMF (1 ml) was added in small portions to a suspension of NaH (55%) (0.017 g, 0.39 mmol) in DMF (0.5 ml) under N2. The reaction was stirred at room temperature. After 1 h MeI (0.053 g, 0.38 mmol) was added. After additional 24 h water was added and the solid material (mainly consisting of ester product) was removed by filtration. The filtrate was acidified with 2M HCl. The precipitate was collected, washed with water and dried to yield 4-(5-methyl-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid (0.018 g). This material contained approx. 10% of ester product: 1H NMR (400 MHz, DMSO-d6) δ 8.89 (1H, s), 8.34 (2H, d), 8.29 (1H, d), 7.99 (2H, d), 7.85 (1H, d), 7.76 (1H, t), 7.62 (1H, t), 4.00 (3H, s); ESI MS m/z 320 (M+H+).

reactant | 4-(3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid | 0.16 mmol, 0.050 g | O=C1N(N=C2C1=CNC=1C=CC=CC21)C2=CC=C(C(=O)O)C=C2 | C17H11N3O3
reactant | NaH | 0.39 mmol, 0.017 g | [H-].[Na+]
reactant | MeI | 0.38 mmol, 0.053 g | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 4-(5-methyl-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid | 0.018 g | CN1C=C2C(C=3C=CC=CC13)=NN(C2=O)C2=CC=C(C(=O)O)C=C2 | C18H13N3O3
